.title LTC6247 Active Low-Pass Amplifier

VCC vcc 0 DC 5
VEE vee 0 DC -5
Vin in 0 AC 1

R1 in filt 10k
C1 filt 0 10n
Rg fb 0 10k
Rf out fb 10k
XU1 out vee filt fb vcc LTC6247
Rload out 0 100k

.ac dec 20 1 1Meg

.MEASURE AC av_passband  FIND vdb(out) AT=10
.MEASURE AC av_at_corner FIND vdb(out) AT=1.6k
.MEASURE AC av_stopband  FIND vdb(out) AT=100k

.end
